US08808703B2
Diethyl 2-(2-(2-azidoethoxy)ethoxy)ethylphosphonate (1 eq) was dissolved in EtOH (0.1 M). Pd(OH)2 (0.05 eq) was added to the reaction. Hydrogen gas was introduced via a balloon; and the reaction was stirred for 2 hours at room temperature. The mixture was filtered through Celite and washed with MeOH. The solvent was removed en vaccuo and the crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-10% MeOH/DCM with 0.5% NH3 to give diethyl 2-(2-(2-aminoethoxy)ethoxy)ethylphosphonate as a colorless oil.

reactant | Diethyl 2-(2-(2-azidoethoxy)ethoxy)ethylphosphonate | 1 eq | N(=[N+]=[N-])CCOCCOCCP(OCC)(OCC)=O | C10H22N3O5P
reactant | Hydrogen | [H][H] | H2
solvent | EtOH | 0.1 M | CCO | C2H6O
catalyst | Pd(OH)2 | 0.05 eq | [OH-].[OH-].[Pd+2]
product | diethyl 2-(2-(2-aminoethoxy)ethoxy)ethylphosphonate | NCCOCCOCCP(OCC)(OCC)=O | C10H24NO5P
